** Name: SimpleTwoStageOpAmp_SimpleOpAmp71_3

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp71_3 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=5e-6 W=22e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=26e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=14e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=6e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=6e-6
mNormalTransistorNmos6 out outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=506e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=79e-6
mNormalTransistorNmos8 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=14e-6
mNormalTransistorNmos9 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=113e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=68e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=68e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=5e-6 W=112e-6
mNormalTransistorPmos13 out inputVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=2e-6 W=519e-6
mNormalTransistorPmos14 outFirstStage inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=194e-6
mNormalTransistorPmos15 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=194e-6
mNormalTransistorPmos16 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=12e-6
mNormalTransistorPmos17 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=12e-6
mNormalTransistorPmos18 SecondStageYinnerStageBias outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=128e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.40001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp71_3

** Expected Performance Values: 
** Gain: 103 dB
** Power consumption: 4.04201 mW
** Area: 5758 (mu_m)^2
** Transit frequency: 13.3061 MHz
** Transit frequency with error factor: 13.2995 MHz
** Slew rate: 11.9834 V/mu_s
** Phase margin: 60.1606°
** CMRR: 108 dB
** VoutMax: 3.31001 V
** VoutMin: 0.170001 V
** VcmMax: 4.66001 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 30.3971 muA
** NormalTransistorPmos: -39.3349 muA
** NormalTransistorPmos: -60.9199 muA
** NormalTransistorPmos: -39.3349 muA
** NormalTransistorPmos: -60.9199 muA
** DiodeTransistorNmos: 39.3341 muA
** NormalTransistorNmos: 39.3341 muA
** NormalTransistorNmos: 43.1711 muA
** NormalTransistorNmos: 43.1701 muA
** NormalTransistorNmos: 21.5861 muA
** NormalTransistorNmos: 21.5861 muA
** NormalTransistorNmos: 646.203 muA
** NormalTransistorPmos: -646.202 muA
** NormalTransistorPmos: -646.203 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -30.3979 muA
** DiodeTransistorPmos: -30.3989 muA


** Expected Voltages: 
** ibias: 1.12401  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 2.37201  V
** out: 2.5  V
** outFirstStage: 0.578001  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** outSourceVoltageBiasXXpXX1: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.568001  V
** out1: 0.587001  V
** sourceGCC1: 3.08601  V
** sourceGCC2: 3.08601  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 3.30801  V


.END