** Name: SimpleTwoStageOpAmp_SimpleOpAmp72_4

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp72_4 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=2e-6 W=301e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=390e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=28e-6
mDiodeTransistorNmos4 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=390e-6
mDiodeTransistorPmos5 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos7 out outVoltageBiasXXnXX2 SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=1e-6 W=464e-6
mNormalTransistorNmos8 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=390e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=22e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=1e-6 W=22e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=390e-6
mNormalTransistorNmos12 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=593e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=301e-6
mNormalTransistorPmos14 out ibias SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=2e-6 W=559e-6
mNormalTransistorPmos15 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=350e-6
mNormalTransistorPmos16 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=145e-6
mNormalTransistorPmos17 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=120e-6
mNormalTransistorPmos18 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=350e-6
mNormalTransistorPmos19 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=277e-6
mNormalTransistorPmos20 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=277e-6
mNormalTransistorPmos21 SecondStageYinnerStageBias outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=558e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 10.3001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp72_4

** Expected Performance Values: 
** Gain: 137 dB
** Power consumption: 14.1201 mW
** Area: 10755 (mu_m)^2
** Transit frequency: 18.0391 MHz
** Transit frequency with error factor: 18.0175 MHz
** Slew rate: 35.9073 V/mu_s
** Phase margin: 60.1606°
** CMRR: 103 dB
** VoutMax: 3.49001 V
** VoutMin: 0.320001 V
** VcmMax: 4.93001 V
** VcmMin: 1.43001 V


** Expected Currents: 
** NormalTransistorPmos: -295.265 muA
** NormalTransistorPmos: -244.357 muA
** NormalTransistorPmos: -373.803 muA
** NormalTransistorPmos: -564.06 muA
** NormalTransistorPmos: -373.803 muA
** NormalTransistorPmos: -564.06 muA
** DiodeTransistorNmos: 373.804 muA
** NormalTransistorNmos: 373.804 muA
** NormalTransistorNmos: 380.512 muA
** DiodeTransistorNmos: 380.511 muA
** NormalTransistorNmos: 190.257 muA
** NormalTransistorNmos: 190.257 muA
** NormalTransistorNmos: 1136.27 muA
** NormalTransistorNmos: 1136.27 muA
** NormalTransistorPmos: -1136.26 muA
** NormalTransistorPmos: -1136.26 muA
** DiodeTransistorNmos: 295.266 muA
** NormalTransistorNmos: 295.265 muA
** DiodeTransistorNmos: 244.358 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.06101  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outInputVoltageBiasXXnXX1: 1.11401  V
** outSourceVoltageBiasXXnXX1: 0.557001  V
** outSourceVoltageBiasXXpXX1: 3.96101  V
** outVoltageBiasXXnXX2: 0.725001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.555001  V
** sourceGCC1: 3.96901  V
** sourceGCC2: 3.96901  V
** sourceTransconductance: 1.77401  V
** innerStageBias: 4.10001  V
** innerTransconductance: 0.150001  V
** inner: 0.557001  V


.END