** Name: SimpleTwoStageOpAmp_SimpleOpAmp72_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp72_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=2e-6 W=10e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=254e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=219e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=2e-6 W=30e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos4 L=1e-6 W=24e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=525e-6
mDiodeTransistorPmos7 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=24e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=57e-6
mNormalTransistorNmos9 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=248e-6
mNormalTransistorNmos10 out outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=511e-6
mNormalTransistorNmos11 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=219e-6
mNormalTransistorNmos12 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=306e-6
mNormalTransistorNmos13 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=8e-6 W=306e-6
mNormalTransistorNmos14 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=2e-6 W=254e-6
mNormalTransistorNmos15 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=10e-6
mNormalTransistorPmos16 out inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=525e-6
mNormalTransistorPmos17 outFirstStage inputVoltageBiasXXpXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=520e-6
mNormalTransistorPmos18 FirstStageYout1 inputVoltageBiasXXpXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=520e-6
mNormalTransistorPmos19 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=33e-6
mNormalTransistorPmos20 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=33e-6
mNormalTransistorPmos21 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=30e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 9.90001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp72_5

** Expected Performance Values: 
** Gain: 103 dB
** Power consumption: 9.76501 mW
** Area: 11323 (mu_m)^2
** Transit frequency: 20.0551 MHz
** Transit frequency with error factor: 20.0395 MHz
** Slew rate: 22.7987 V/mu_s
** Phase margin: 60.1606°
** CMRR: 107 dB
** VoutMax: 3.52001 V
** VoutMin: 0.150001 V
** VcmMax: 4.66001 V
** VcmMin: 1.31001 V


** Expected Currents: 
** NormalTransistorNmos: 55.9161 muA
** NormalTransistorNmos: 243.681 muA
** NormalTransistorPmos: -210.479 muA
** NormalTransistorPmos: -335.061 muA
** NormalTransistorPmos: -210.479 muA
** NormalTransistorPmos: -335.061 muA
** DiodeTransistorNmos: 210.48 muA
** NormalTransistorNmos: 210.48 muA
** NormalTransistorNmos: 249.168 muA
** DiodeTransistorNmos: 249.169 muA
** NormalTransistorNmos: 124.584 muA
** NormalTransistorNmos: 124.584 muA
** NormalTransistorNmos: 973.265 muA
** NormalTransistorPmos: -973.264 muA
** DiodeTransistorPmos: -973.265 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -55.9169 muA
** NormalTransistorPmos: -55.9179 muA
** DiodeTransistorPmos: -243.68 muA
** DiodeTransistorPmos: -243.68 muA


** Expected Voltages: 
** ibias: 1.11501  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 2.95801  V
** inputVoltageBiasXXpXX2: 2.37201  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outSourceVoltageBiasXXnXX1: 0.558001  V
** outSourceVoltageBiasXXpXX1: 3.97901  V
** outSourceVoltageBiasXXpXX2: 3.68601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.555001  V
** sourceGCC1: 3.08601  V
** sourceGCC2: 3.08601  V
** sourceTransconductance: 1.89801  V
** inner: 0.556001  V
** inner: 3.97701  V


.END