** Name: SimpleTwoStageOpAmp_SimpleOpAmp73_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp73_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=54e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=31e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=5e-6 W=89e-6
mDiodeTransistorPmos4 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=48e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=7e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=600e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=3e-6 W=18e-6
mNormalTransistorNmos8 FirstStageYinnerStageBias outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mNormalTransistorNmos9 FirstStageYout1 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=5e-6 W=89e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=24e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=24e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=7e-6 W=81e-6
mNormalTransistorPmos13 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=224e-6
mNormalTransistorPmos14 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=158e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=213e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=82e-6
mNormalTransistorPmos17 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=158e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=40e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=40e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.70001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp73_7

** Expected Performance Values: 
** Gain: 120 dB
** Power consumption: 14.1501 mW
** Area: 4390 (mu_m)^2
** Transit frequency: 13.1391 MHz
** Transit frequency with error factor: 13.1388 MHz
** Slew rate: 13.85 V/mu_s
** Phase margin: 60.1606°
** CMRR: 141 dB
** VoutMax: 4.25 V
** VoutMin: 0.210001 V
** VcmMax: 5.01001 V
** VcmMin: 1.39001 V


** Expected Currents: 
** NormalTransistorPmos: -304.511 muA
** NormalTransistorPmos: -116.773 muA
** NormalTransistorPmos: -38.1229 muA
** NormalTransistorPmos: -57.1849 muA
** NormalTransistorPmos: -38.1239 muA
** NormalTransistorPmos: -57.1849 muA
** NormalTransistorNmos: 38.1221 muA
** NormalTransistorNmos: 38.1231 muA
** DiodeTransistorNmos: 38.1221 muA
** NormalTransistorNmos: 38.1231 muA
** NormalTransistorNmos: 38.1221 muA
** NormalTransistorNmos: 19.0621 muA
** NormalTransistorNmos: 19.0621 muA
** NormalTransistorNmos: 2274.37 muA
** NormalTransistorPmos: -2274.36 muA
** DiodeTransistorNmos: 304.512 muA
** DiodeTransistorNmos: 116.774 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.32201  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXpXX1: 4.03801  V
** outVoltageBiasXXnXX1: 1.08501  V
** outVoltageBiasXXnXX2: 0.617001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.564001  V
** innerStageBias: 0.482001  V
** out1: 1.24201  V
** sourceGCC1: 4.05001  V
** sourceGCC2: 4.05001  V
** sourceTransconductance: 1.92701  V


.END