** Name: SimpleTwoStageOpAmp_SimpleOpAmp78_3

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp78_3 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=7e-6 W=36e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=183e-6
mDiodeTransistorNmos3 FirstStageYinnerOutputLoad2 FirstStageYinnerOutputLoad2 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=9e-6 W=53e-6
mDiodeTransistorNmos4 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 sourceNmos sourceNmos nmos4 L=9e-6 W=162e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=13e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=24e-6
mNormalTransistorNmos7 out outFirstStage sourceNmos sourceNmos nmos4 L=10e-6 W=412e-6
mNormalTransistorNmos8 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=223e-6
mNormalTransistorNmos9 outFirstStage FirstStageYinnerOutputLoad2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=9e-6 W=53e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack1Load2 sourceNmos sourceNmos nmos4 L=9e-6 W=162e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=26e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=26e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=7e-6 W=183e-6
mNormalTransistorNmos14 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=36e-6
mNormalTransistorPmos15 out inputVoltageBiasXXpXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=2e-6 W=304e-6
mNormalTransistorPmos16 outFirstStage inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=65e-6
mNormalTransistorPmos17 FirstStageYinnerOutputLoad2 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=65e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=24e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=24e-6
mNormalTransistorPmos20 SecondStageYinnerStageBias outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=516e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 2.30001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp78_3

** Expected Performance Values: 
** Gain: 123 dB
** Power consumption: 7.48501 mW
** Area: 14999 (mu_m)^2
** Transit frequency: 13.0601 MHz
** Transit frequency with error factor: 13.0594 MHz
** Slew rate: 18.2006 V/mu_s
** Phase margin: 60.1606°
** CMRR: 134 dB
** VoutMax: 3.22001 V
** VoutMin: 0.610001 V
** VcmMax: 4.87001 V
** VcmMin: 1.37001 V


** Expected Currents: 
** NormalTransistorNmos: 61.0721 muA
** NormalTransistorPmos: -34.9699 muA
** NormalTransistorPmos: -59.9499 muA
** NormalTransistorPmos: -34.9679 muA
** NormalTransistorPmos: -59.9479 muA
** DiodeTransistorNmos: 34.9691 muA
** DiodeTransistorNmos: 34.9681 muA
** NormalTransistorNmos: 34.9671 muA
** NormalTransistorNmos: 34.9681 muA
** NormalTransistorNmos: 49.9581 muA
** DiodeTransistorNmos: 49.9591 muA
** NormalTransistorNmos: 24.9791 muA
** NormalTransistorNmos: 24.9791 muA
** NormalTransistorNmos: 1306.04 muA
** NormalTransistorPmos: -1306.03 muA
** NormalTransistorPmos: -1306.03 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -61.0729 muA
** DiodeTransistorPmos: -61.0739 muA


** Expected Voltages: 
** ibias: 1.11101  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 2.61301  V
** out: 2.5  V
** outFirstStage: 1.02001  V
** outSourceVoltageBiasXXnXX1: 0.556001  V
** outSourceVoltageBiasXXpXX1: 3.90501  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerOutputLoad2: 1.22501  V
** innerTransistorStack1Load2: 0.556001  V
** innerTransistorStack2Load2: 0.554001  V
** sourceGCC1: 3.42201  V
** sourceGCC2: 3.42201  V
** sourceTransconductance: 1.83301  V
** innerStageBias: 3.86701  V
** inner: 0.554001  V


.END